US04291042
5-Amino-2-[1-(indol-3-ylmethyl)piperid-4-yl]-1H-isoindole-1,3-(2H)-dione
5-Nitro-2-[1-(indol-3-ylmethyl)piperid-4-yl]-1H-isoindole-1,3-(2H)-dione (0.8 g, 1.98 mmol) was hydrogenated in methanol over Pd/C (5%, 0.15 g) at atmospheric pressure. The catalyst was filtered off and the filtrate evaporated. The solid product was recrystallised from chloroform to give the title compound.

reactant | 5-Nitro-2-[1-(indol-3-ylmethyl)piperid-4-yl]-1H-isoindole-1,3-(2H)-dione | 1.98 mmol, 0.8 g | [N+](=O)([O-])C=1C=C2C(N(C(C2=CC1)=O)C1CCN(CC1)CC1=CNC2=CC=CC=C12)=O | C22H20N4O4
solvent | methanol | CO | CH4O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | 5-Amino-2-[1-(indol-3-ylmethyl)piperid-4-yl]-1H-isoindole-1,3-(2H)-dione | NC=1C=C2C(N(C(C2=CC1)=O)C1CCN(CC1)CC1=CNC2=CC=CC=C12)=O | C22H22N4O2
